US07728030B2
(2S,3R)-3-[1-(4-Fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine (72a)
Prepared as described in Example 1 from (2S,3R)-3-hydroxy-4-phenylbutan-2-aminium chloride (290 mg, 1.44 mmol) and 1-(4-fluorophenyl)-5-iodoindazole (583 mg, 1.73 mmol). Yield 340 mg (63%).

reactant | (2S,3R)-3-hydroxy-4-phenylbutan-2-aminium chloride | 1.44 mmol, 290 mg | [Cl-].O[C@@H]([C@H](C)[NH3+])CC1=CC=CC=C1
reactant | 1-(4-fluorophenyl)-5-iodoindazole | 1.73 mmol, 583 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)I | C13H8FIN2
product | (2S,3R)-3-[1-(4-Fluorophenyl)indazol-5-yl]oxy-4-phenyl-butan-2-amine | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)O[C@@H]([C@H](C)N)CC1=CC=CC=C1 | C23H22FN3O
